US07208603B2
Step 1: 6-(3-Chloro-4-fluorobenzoyl)-1-oxa-6-azaspiro[2.5]octane-2-carbonitrile (V).
A suspension of 1-(3-chloro-4-fluorobenzoyl)piperidin-4-one (4160 g, 16.27 mol) in 28.4 liters of dichloromethane and 11.7 liters of sodium hydroxide at 30.5%, supplemented with 186 g of tetrabutylammonium chloride, is cooled to 15° C. Chloroacetonitrile (1540 ml, 24.4 mol) is then added slowly and with vigorous stirring and the mixture is stirred for 3 hours at 20° C. Further addition of chloroacetonitrile (500 ml) is carried out in order to complete the reaction. The reaction medium is diluted with dichloromethane (8.5 liters) and water (20 liters) and then separated by decantation and washed again with water. The brown solution obtained is decolorized with 2 kg of silica and 500 g of animal charcoal and then evaporated to dryness. The residue obtained is crystallized from isopropanol in order to give, after filtration, 3426 g of brown crystals. m.p.=100–101° C.

reactant | 1-(3-chloro-4-fluorobenzoyl)piperidin-4-one | 16.27 mol, 4160 g | ClC=1C=C(C(=O)N2CCC(CC2)=O)C=CC1F | C12H11ClFNO2
reactant | Chloroacetonitrile | 24.4 mol, 1540 ml | ClCC#N | C2H2ClN
reactant | chloroacetonitrile | 500 ml | ClCC#N | C2H2ClN
reactant | charcoal | 500 g | C | CH4
solvent | dichloromethane | 28.4 liters | ClCCl | CH2Cl2
solvent | sodium hydroxide | 11.7 liters | [OH-].[Na+]
catalyst | tetrabutylammonium chloride | 186 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 8.5 liters | ClCCl | CH2Cl2
solvent | water | 20 liters | O | H2O
product | 6-(3-Chloro-4-fluorobenzoyl)-1-oxa-6-azaspiro[2.5]octane-2-carbonitrile | ClC=1C=C(C(=O)N2CCC3(C(O3)C#N)CC2)C=CC1F | C14H12ClFN2O2
